US04983600
(b) 2-Allyloxy-N-[[[1-Azabicyclo[2.2.2]octan-3-yl] amino]carbonyl]benzamide
The above compound was prepared, following the procedure of Example 1, from 3-aminoquinuclidine (0.28 g, 2.2 mmol) and 2-allyloxybenzoyl isocyanate (0.53 g, ca 2.2 mmol). The product (0.61 g) was converted to the 1:1 fumarate.

reactant | 3-aminoquinuclidine | 2.2 mmol, 0.28 g | NC1CN2CCC1CC2 | C7H14N2
reactant | 2-allyloxybenzoyl isocyanate | ca 2.2 mmol, 0.53 g | C(C=C)OC1=C(C(=O)N=C=O)C=CC=C1 | C11H9NO3
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
product | 2-Allyloxy-N-[[[1-Azabicyclo[2.2.2]octan-3-yl] amino]carbonyl]benzamide | C(C=C)OC1=C(C(=O)NC(=O)NC2CN3CCC2CC3)C=CC=C1 | C18H23N3O3
